US08466186B2
(f) N-(3-Amino-4-chloro-2-fluoro-benzyl)-2,2-dimethyl-propionamide
The sub-title compound is prepared from crude 3-amino-4-chloro-2-fluoro-benzylamine, 2,2-dimethyl-propionic acid chloride and TEA in analogy to example 5e.

reactant | 3-amino-4-chloro-2-fluoro-benzylamine | NC=1C(=C(CN)C=CC1Cl)F | C7H8ClFN2
reactant | 2,2-dimethyl-propionic acid chloride | CC(C(=O)Cl)(C)C | C5H9ClO
product | N-(3-Amino-4-chloro-2-fluoro-benzyl)-2,2-dimethyl-propionamide | Yield: 36% | NC=1C(=C(CNC(C(C)(C)C)=O)C=CC1Cl)F | C12H16ClFN2O
